US05374772
A mixture of 1.0 g (5.95 mmol) of 2,3-dihydroxybenzoic acid methyl ester, 1.98 g (5.95 mmol) of 1-bromooctadecane and 0.825 g (5.95 mmol) of potassium carbonate in 20 ml of acetone and 4 ml of DMF was stirred at reflux for 40 hours. The usual workup followed by purification by chromatography on 40 g of silica gel (230-400 mesh) using 50% toluene-hexane gave 0.40 g (16% yield, mp 57°-60°) of 2-hydroxy-3-(octadecyloxy)benzoic acid methyl ester. The structure was established by nmr and mass spectra.

reactant | 2,3-dihydroxybenzoic acid methyl ester | 5.95 mmol, 1.0 g | COC(C1=C(C(=CC=C1)O)O)=O | C8H8O4
reactant | 1-bromooctadecane | 5.95 mmol, 1.98 g | BrCCCCCCCCCCCCCCCCCC | C18H37Br
reactant | potassium carbonate | 5.95 mmol, 0.825 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 2-hydroxy-3-(octadecyloxy)benzoic acid methyl ester | 0.40 g, 16% yield | COC(C1=C(C(=CC=C1)OCCCCCCCCCCCCCCCCCC)O)=O | C26H44O4
